US07838675B2
N-[2-[[(2,3-Difluorophenyl)methyl]thio]-6-{[(1R,2S)-2,3-dihydroxy-1-methylpropyl]oxy}-4-pyrimidinyl]-1-piperazinesulfonamide
A solution of tert-butyl 4-{[(2-[(2,3-difluorobenzyl)thio]-6-{(1R)-1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethoxy}pyrimidin-4-yl)amino]sulfonyl}piperazine-1-carboxylate (the product of step i) (0.23 g) in 10% trifluoroacetic acid/DCM (5 mL) was stirred at room temperature for 1 h. The mixture was evaporated to dryness in vacuo. The resulting crude oil was purified by reverse phase HPLC (75% to 5% gradient of 0.1% aqueous ammonium acetate in acetonitrile as eluent) to give the title compound as a white solid. Yield: 40 mg.

reactant | tert-butyl 4-{[(2-[(2,3-difluorobenzyl)thio]-6-{(1R)-1-[(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]ethoxy}pyrimidin-4-yl)amino]sulfonyl}piperazine-1-carboxylate | FC1=C(CSC2=NC(=CC(=N2)NS(=O)(=O)N2CCN(CC2)C(=O)OC(C)(C)C)O[C@H](C)[C@H]2OC(OC2)(C)C)C=CC=C1F | C27H37F2N5O7S2
solvent | trifluoroacetic acid DCM | 5 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | N-[2-[[(2,3-Difluorophenyl)methyl]thio]-6-{[(1R,2S)-2,3-dihydroxy-1-methylpropyl]oxy}-4-pyrimidinyl]-1-piperazinesulfonamide | FC1=C(C=CC=C1F)CSC1=NC(=CC(=N1)NS(=O)(=O)N1CCNCC1)O[C@@H]([C@H](CO)O)C | C19H25F2N5O5S2
